US05716948
f) (3S,4R)-1-(4-Methoxyphenyl)-4-[3-oxo-3-[(S)-tetrahydrofuran-2-yl]propenyl]-3-phenylacetamidoazetidin-2-one
A suspension of (3S,4S)-4-formyl-1-(4-methoxyphenyl)-3-phenylacetamidoazetidin-2-one (10.39 g, 30.7 mmol) in acetonitrile (250 ml) was treated with (S)-tetrahydrofuran-2-ylcarbonylmethylenetriphenylphosphorane (11.50 g, 30.7mmol) and stirred at room temperature for 2 days. The bulk of the product was collected by filtration and washed with acetonitrile. The remainder of the product was purified by chromatography on silica gel eluting with ethyl acetate yielding a further 1.66 g. The title compound was isolated as a white solid (total 12.12 g, 91%); m.p. 159°-162° C.; [α]D -83.4° (c=1 CHCl3); (Found: C, 69.41; H, 6.28; N, 6.20%; M+, 434.1832. C25H26N2O5 requires: C, 69.11; H, 6.03; N, 6.45%; M 434.11842); ννmax (CHCl3) 3414, 1751, 1682, 1631, 1513 and 1250 cm-1 ; δH (CDCl3) 1.75-1.92 (3H, m), 2.18 (1H, m), 3.57 (2H, s), 3.76 (3H, s), 3.70-3.90 (2H, m), 4.39 (1H, m), 4.88 (1H, t, J 5.4 Hz), 5.49 (1H, dd, J 8.0, 5.4 Hz), 6.20 (1H, d, J 8.0 Hz), 6.60 (1H, d, J 16.1 Hz), 6.78-6.85 (3H, m) and 7.18-7.38 (7H, m).

reactant | (3S,4S)-4-formyl-1-(4-methoxyphenyl)-3-phenylacetamidoazetidin-2-one | 30.7 mmol, 10.39 g | C(=O)[C@@H]1[C@@H](C(N1C1=CC=C(C=C1)OC)=O)NC(CC1=CC=CC=C1)=O | C19H18N2O4
reactant | (S)-tetrahydrofuran-2-ylcarbonylmethylenetriphenylphosphorane | 30.7mmol, 11.50 g | O1[C@@H](CCC1)C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23O2P
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | (3S,4R)-1-(4-Methoxyphenyl)-4-[3-oxo-3-[(S)-tetrahydrofuran-2-yl]propenyl]-3-phenylacetamidoazetidin-2-one | COC1=CC=C(C=C1)N1C([C@H]([C@H]1C=CC([C@H]1OCCC1)=O)NC(CC1=CC=CC=C1)=O)=O | C25H26N2O5
